* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 20:52

.SUBCKT andgate VSS VDD VOUT VB VA
M$1 VSS \$7 VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 \$4 VA \$7 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.11325p AD=0.1005p PS=1.07u
+ PD=1.34u
M$3 VSS VB \$4 VSS sg13_lv_nmos L=0.13u W=0.45u AS=0.153p AD=0.11325p PS=1.58u
+ PD=1.07u
M$4 VDD \$7 VOUT VDD sg13_lv_pmos L=0.13u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$5 VDD VB \$7 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0825p PS=1.34u
+ PD=0.92u
M$6 \$7 VA VDD VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0825p AD=0.1005p PS=0.92u
+ PD=1.34u
.ENDS andgate
